US04703052
(iii) Ethyl 2-hydroxymethyl-2,3-dihydrobenzofuran-5-carboxylate
A mixture of 47.1 g (0.228 mole) ethyl 3-allyl4-hydroxybenzoate, 350 ml chloroform and 79.7 g (0.462 mole) m-chloroperbenzoic acid was heated at reflux, with stirring, under nitrogen for 3.5 hours. The resulting mixture was allowed to cool to room temperature, the solvent evaporated, the residue dissolved in ethyl ether, washed with 1N sodium hydroxide, brine and dried (MgSO4). Evaporation of the ether gave 32.07 g of product as a colorless solid, m.p. 72°-77° C. which was used in the next step.

reactant | ethyl 3-allyl4-hydroxybenzoate | 0.228 mole, 47.1 g | C(C=C)C=1C=C(C(=O)OCC)C=CC1O | C12H14O3
reactant | m-chloroperbenzoic acid | 0.462 mole, 79.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 2-hydroxymethyl-2,3-dihydrobenzofuran-5-carboxylate | 32.07 g | OCC1OC2=C(C1)C=C(C=C2)C(=O)OCC | C12H14O4
